US07378409B2
Preparation D10, Step 1: Butyryl chloride (0.68 mL, 6.5 mmol, 1 eq) was slowly dripped into a mixture of 2-amino-5-chlorobenzamide (1.10 g, 6.5 mmol, 1 eq), 1.000N NaOH (6.50 mL, 6.5 mmol, 1 eq) and THF (enough to dissolve) at 0° C. More acid chloride and base were added to drive the reaction to completion. After 4 days ethyl acetate was added followed by 1N HCl. The layers were separated and the organic layer washed with 1N HCl (2×), saturated sodium bicarbonate (1×), and brine (1×). The organic layer was dried (MgSO4) and stripped to yield 2-butyramido-5-chlorobenzamide (1.44 g) as a white powder. Mass Spec (ESI) (M+H)+=241.0.

reactant | Butyryl chloride | 6.5 mmol, 0.68 mL, 1 eq | C(CCC)(=O)Cl | C4H7ClO
reactant | 2-amino-5-chlorobenzamide | 6.5 mmol, 1.10 g, 1 eq | NC1=C(C(=O)N)C=C(C=C1)Cl | C7H7ClN2O
reactant | NaOH | 6.5 mmol, 1.000N, 6.50 mL, 1 eq | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-butyramido-5-chlorobenzamide | 1.44 g | C(CCC)(=O)NC1=C(C(=O)N)C=C(C=C1)Cl | C11H13ClN2O2
